US04814343
3-Bromo-2-hydroxy-4-methoxybenzenemethanol
28 g (0.12 mole) of methyl 3-bromo-2-hydroxy-4-methoxybenzoate (prepared according to the method of T. M. CRESP et al., J. Chem. Soc. Perkin Trans., Part 1, (1973), 340-345) dissolved in 250 ml of tetrahydrofuran, are added dropwise, in the course of 75 minutes, at 0° C. to a suspension of 6.06 g (0.159 mole) oflithium aluminum hydride in 100 ml of tetrahydrofuran. The reaction mixture is stirred for 3 hours at ambient temperature. Subsequently, there is added a mixture of 11.5 ml of water and 12 ml of tetrahydrofuran, followed by acifification with 28.6 ml of concentrated hydrochloric acid dissolved in 300 ml of water. The mixture is extracted with dichloromethane. The organic phases are washed with water, dried over anhydrous sodium sulfate and then evaporated pressure. The residue (22.9 g) is used as such in the following step. Yield: 91% of theory.

reactant | methyl 3-bromo-2-hydroxy-4-methoxybenzoate | 0.12 mole, 28 g | BrC=1C(=C(C(=O)OC)C=CC1OC)O | C9H9BrO4
reactant | aluminum hydride | [H-].[Al+3].[H-].[H-]
reactant | hydrochloric acid | 28.6 ml | Cl | ClH
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | water | 11.5 ml | O | H2O
product | 3-Bromo-2-hydroxy-4-methoxybenzenemethanol | Yield: 91% | BrC=1C(=C(C=CC1OC)CO)O | C8H9BrO3
